US07732448B2
0.3 g of 4-chloro-6-(2-pentenyloxy)pyrimidine and 0.25 g of 1,2,3,6-tetrahydropyridine were mixed and left for 3 hours at room temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.23 g of 1-(4-(2-pentynyloxy)pyrimidin-6-yl)pyridine (hereinafter, referred to as Compound (55)).

reactant | 4-chloro-6-(2-pentenyloxy)pyrimidine | 0.3 g | ClC1=NC=NC(=C1)OCC=CCC | C9H11ClN2O
reactant | 1,2,3,6-tetrahydropyridine | 0.25 g | N1CCC=CC1 | C5H9N
product | 1-(4-(2-pentynyloxy)pyrimidin-6-yl)pyridine | 0.23 g | C(C#CCC)OC1=NC=NC(=C1)N1CC=CC=C1 | C14H15N3O
